US08278457B2
Step 4. Synthesis of (1R,2R)-2-(4-bromophenoxy)cyclohexyl methanesulfonate
The title compound of Step 4 was prepared according to the general procedure for the synthesis of trans-2-(4-bromophenoxy)cyclopentyl methanesulfonate in Example 5, except that (1R,2R)-2-(4-bromophenoxy)cyclohexanol was used instead of trans-2-(4-bromophenoxy)cyclopentanol. (1R,2R)-2-(4-bromophenoxy)cyclohexyl methanesulfonate was obtained as a light golden oil. Yield: 3.60 g, 10.3 mmol, quantitative. 1H NMR (400 MHz, CDCl3) δ 1.26-1.51 (m, 3H), 1.64-1.84 (m, 3H), 2.19 (m, 1H), 2.30 (m, 1H), 2.97 (s, 3H), 4.22 (ddd, J=10.2, 8.5, 4.6 Hz, 1H), 4.64 (ddd, J=10.6, 8.4, 4.9 Hz, 1H), 6.82 (d, J=9.1 Hz, 2H), 7.39 (d, J=9.1 Hz, 2H).

reactant | trans-2-(4-bromophenoxy)cyclopentyl methanesulfonate | CS(=O)(=O)O[C@H]1[C@@H](CCC1)OC1=CC=C(C=C1)Br | C12H15BrO4S
reactant | (1R,2R)-2-(4-bromophenoxy)cyclohexanol | BrC1=CC=C(O[C@H]2[C@@H](CCCC2)O)C=C1 | C12H15BrO2
product | (1R,2R)-2-(4-bromophenoxy)cyclohexyl methanesulfonate | CS(=O)(=O)O[C@H]1[C@@H](CCCC1)OC1=CC=C(C=C1)Br | C13H17BrO4S
